* D:\Proyecto_Final\Therpsicore\Amplificador_Jose.asc
V1 +15 0 15
V2 0 -15 15
V3 N001 0 SINE() AC AC 1
R1 N002 N001 4.7k
R2 0 N003 10e6
R3 N006 Vo1 51k
R4 N006 N016 10k
R6 N017 Vo1 2200
R7 N025 N009 2.2k
C1 N003 N002 560p
C2 0 N002 560p
C3 N006 Vo1 120p
C4 N016 N023 0.47µ
C5 N017 N024 2.2µ
C6 N024 N025 22µ
XU2 N003 N006 +15 -15 Vo1 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R5 0 N023 12.5k
R8 N024 0 12.5k
R9 N010 N009 25k
R10 N011 N010 25k
R11 N021 N009 25k
R12 N011 N021 25k
R13 N026 N009 25k
R14 N011 N026 25k
C7 N015 N021 6.8n
C8 N008 N026 390p
R15 N015 N010 30k
R16 N008 N015 220k
XU3 0 N008 +15 -15 Vo2 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R17 Vo2 N011 2.2k
R18 N014 Vo2 1.2e6
R19 Vo2 N022 47k
R20 N022 N014 47k
R21 N027 N028 22k
C9 N027 N022 33n
C10 N028 Vo2 18n
C11 N028 N014 18n
XU4 N014 N012 +15 -15 N012 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R22 N027 0 10k
R23 N012 N027 910
C12 N012 N004 22µ
R24 N007 N004 10k
C13 N007 Vo3 2.2n
C14 N007 N013 2.2n
R25 Vo3 N013 20k
XU5 0 N013 +15 -15 Vo3 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R26 NC_01 N018 3k
R27 N018 0 120
XU6 0 N018 +15 -15 N019 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R28 N005 Vo3 22k
R29 N005 N004 22k
R30 N020 N019 22k
.ac dec 1000 1 100k
.lib UniversalOpamps2.sub
.backanno
.end
